US07179823B1
A mixture of ethyl 3-hydroxy-1H-pyrazole-4-carboxylate (8.95 g), 4-phenoxybenzyl chloride (25.35 g), potassium carbonate (31.88 g), and N,N-dimethylformamide (200 ml) was stirred at 90° C. for 8 hours. The reaction mixture was poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed successively with dilute hydrochloric acid and aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to obtain ethyl 1-(4-phenoxybenzyl)-3-(4-phenoxybenzyloxy)-1H-pyrazole-4-carboxylate (22.71 g, yield: 76%) as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:4, volume ratio).

reactant | ethyl 3-hydroxy-1H-pyrazole-4-carboxylate | 8.95 g | OC1=NNC=C1C(=O)OCC | C6H8N2O3
reactant | 4-phenoxybenzyl chloride | 25.35 g | O(C1=CC=CC=C1)C1=CC=C(CCl)C=C1 | C13H11ClO
reactant | potassium carbonate | 31.88 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 1-(4-phenoxybenzyl)-3-(4-phenoxybenzyloxy)-1H-pyrazole-4-carboxylate | 22.71 g, yield: 76% | O(C1=CC=CC=C1)C1=CC=C(CN2N=C(C(=C2)C(=O)OCC)OCC2=CC=C(C=C2)OC2=CC=CC=C2)C=C1 | C32H28N2O5
